US05200522
reacting ethyl acetoacetate with cyanoacetamide and a hydroxide of an alkali metal, in the presence of an organic solvent, at a temperature of from 60° C. to 80° C., for 1 to 4 hours, to produce 3-cyano-2,6-dihydro-4-methylpyridine;

reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | cyanoacetamide | C(#N)CC(=O)N | C3H4N2O
reactant | hydroxide | [OH-]
product | 3-cyano-2,6-dihydro-4-methylpyridine | C(#N)C1CNCC=C1C | C7H10N2
